US08420816B2
STEP B: (R)-2-amino-3-cyano-N-cyclopentylpropanamide
A mixture of (R)-tert-butyl 3-cyano-1-(cyclopentylamino)-1-oxopropan-2-ylcarbamate and 50% TFA/DCM (10 mL) was stirred for 1 h. Following reaction, the mixture was concentrated to afford the title compound as a clear oil (TFA salt, 0.265 g, 41%). The product was pure by TLC (visualized by ninhydrin stain).

reactant | (R)-tert-butyl 3-cyano-1-(cyclopentylamino)-1-oxopropan-2-ylcarbamate | C(#N)C[C@H](C(=O)NC1CCCC1)NC(OC(C)(C)C)=O | C14H23N3O3
solvent | TFA DCM | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (R)-2-amino-3-cyano-N-cyclopentylpropanamide | 0.265 g, 41% | N[C@@H](C(=O)NC1CCCC1)CC#N | C9H15N3O
